US09399637B2
Step 3) N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine
To tert-butyl 9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate (1.04 g, 2.00 mmol) was added a solution of hydrogen chloride in ethyl acetate (8 mL, 3 mol/L). The reaction was stirred at rt overnight and then concentrated in vacuo. The residue was diluted with Na2CO3 solution (sat, 100 mL), the mixture was extracted with DCM/MeOH (10/1, 150 mL×3). The organic layers were dried with Na2SO4, filtered and concentrated in vacuo to give the title compound as a yellow solid (804 mg, 95.8%).

reactant | tert-butyl 9-((2-((2,3-dimethyl-2H-indazol-6-yl)amino)-5-methylpyrimidin-4-yl)amino)-3-azaspiro[5.5]undecane-3-carboxylate | 2.00 mmol, 1.04 g | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1)C | C29H41N7O2
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 3 mol/L, 8 mL | C(C)(=O)OCC | C4H8O2
product | N2-(2,3-dimethyl-2H-indazol-6-yl)-5-methyl-N4-(3-azaspiro[5.5]undecan-9-yl)pyrimidine-2,4-diamine | 804 mg, 95.8% | CN1N=C2C=C(C=CC2=C1C)NC1=NC=C(C(=N1)NC1CCC2(CCNCC2)CC1)C | C24H33N7
